US06683201B2
A solution of 102 mg (0.5 mmol) of 5-(5-Dimethylamino-pent-1-ynyl)-pyrimidin-2-ylamine in 3.9 ml pyridine was treated with 257 mg (1.05 mmol) 4-(trifluoromethyl)benzenesulfonyl chloride. The reaction was stirred over night at 70° C., evaporated and extracted with aqueous saturated NaHCO3(2×)/CH2Cl2 (3×). The organic phases were washed with aqueous 10% NaCl solution, dried (Na2SO4) and evaporated. Flash column chromatography on silica gel with CH2Cl2/MeOH (95:5 to 9:1) yielded 70 mg (34%) of N-[5-(5-Dimethylamino-pent-1-ynyl)-pyrimidin-2-yl]-4-trifluoromethyl-benzenesulfonamide, mp: 194-202° C.,slowly dec.; MS: 413 (MH+).

reactant | 5-(5-Dimethylamino-pent-1-ynyl)-pyrimidin-2-ylamine | 0.5 mmol, 102 mg | CN(CCCC#CC=1C=NC(=NC1)N)C | C11H16N4
reactant | 4-(trifluoromethyl)benzenesulfonyl chloride | 1.05 mmol, 257 mg | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | pyridine | 3.9 ml | N1=CC=CC=C1 | C5H5N
product | N-[5-(5-Dimethylamino-pent-1-ynyl)-pyrimidin-2-yl]-4-trifluoromethyl-benzenesulfonamide | 70 mg, 34% | CN(CCCC#CC=1C=NC(=NC1)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C18H19F3N4O2S
